US08003654B2
14) Synthesis of ethyl-isothiazol-3-ylmethyl-amine
prepared by reaction of 3-bromomethyl-isothiazole (Buttimore D. et al J. Chem. Soc. 1965, 7274-7276) with 2M ethylamine in THF.

reactant | 3-bromomethyl-isothiazole | BrCC1=NSC=C1 | C4H4BrNS
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-isothiazol-3-ylmethyl-amine | C(C)NCC1=NSC=C1 | C6H10N2S
